US08466089B2
3-(2-Methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoic acid (100 g) and toluene (300 mL) were mixed, and thionyl chloride (47.5 g) and DMF (2.5 g) were added, followed by heating and stirring at 100° C. for 2 hours. After completion of the reaction, 180 mL of toluene was distilled off under reduced pressure to obtain a solution of 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoyl chloride.

reactant | 3-(2-Methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoic acid | 100 g | COCCOC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H16O6S
reactant | thionyl chloride | 47.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 2.5 g | CN(C)C=O | C3H7NO
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoyl chloride | COCCOC=1C(=C(C(=O)Cl)C=CC1S(=O)(=O)C)C | C12H15ClO5S
